US06727264B1
According to the procedure used for the synthesis of N-(3-{1-[(6-chloro-1H-indol-3-yl)methyl]-4-piperidinyl}phenyl)-2-methylpropanamide, 1-(4-methylphenyl)-1H-indole (0.207 g, 1.00 mmol) provided 2-methyl-N-[3-(1-{[1-(4-methylphenyl)-1H-indol-3-yl]methyl}-4-piperidinyl)phenyl]propanamide (0.441 g, 78%). 1H NMR (400 MHz, CDCl3) δ 7.90 (s, 1H), 7.73 (d, 1H, J=7.2 Hz), 7.58-7.51 (m, 2H), 7.43-7.36 (m, 3H), 7.35-7.29 (m, 3H), 7.26-7.15 (m, 3H), 6.89 (d, 1H, J=7.7 Hz), 4.07 (s, 2H), 3.36 (d, 2H, J=11.6 Hz), 2.59-2.39 (m, 6H), 2.55 (sept, 1H, J=6.7 Hz), 2.10-1.98 (m, 2H), 1.83 (d, 2H, J=12.9 Hz), 1.23 (d, 6H, J=6.9 Hz); ESMS m/e: 466.2 (M+H)+.

reactant | N-(3-{1-[(6-chloro-1H-indol-3-yl)methyl]-4-piperidinyl}phenyl)-2-methylpropanamide | ClC1=CC=C2C(=CNC2=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H28ClN3O
reactant | 1-(4-methylphenyl)-1H-indole | 1.00 mmol, 0.207 g | CC1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C15H13N
product | 2-methyl-N-[3-(1-{[1-(4-methylphenyl)-1H-indol-3-yl]methyl}-4-piperidinyl)phenyl]propanamide | 0.441 g, 78% | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=CN(C2=CC=CC=C12)C1=CC=C(C=C1)C)C | C31H35N3O
